US07858640B2
[8-chloro-2-isopropyl-3-(4-methanesulfonylbenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.70 g), 2-(4-methanesulfonylbenzyl)-4-methyl-3-oxopentanoic acid ethyl ester (1.4 g), polyphosphoric acid (3.5 g) and dioxane (50 mL) was heated at 120° C. for 2 days. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:1 by volume) to afford title compound. 0.79 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.70 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 2-(4-methanesulfonylbenzyl)-4-methyl-3-oxopentanoic acid ethyl ester | 1.4 g | C(C)OC(C(C(C(C)C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O5S
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [8-chloro-2-isopropyl-3-(4-methanesulfonylbenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)C(C)C)CC1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C23H24ClNO6S
